US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-(4-carbamoyl-1,3-thiazol-2-yl)azetidine (6.7 g, 15.3 mmol) (obtained as described in Reference Example 3(1)) in anhydrous tetrahydrofuran (200 ml) was added a solution of 1.0M tetra-n-butylammonium fluoride in tetrahydrofuran (18.4 ml) in an ice bath. The mixture was stirred for 1 hour. After checking the completion of the reaction, the reaction mixture was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate→10% methanol in ethyl acetate as the eluant to afford 1-(4-carbamoyl-1,3-thiazol-2-yl)-3-hydroxyazetidine (2.78 g, yield 91%) as a pale yellow solid.

reactant | 3-t-butyldiphenylsilyloxy-1-(4-carbamoyl-1,3-thiazol-2-yl)azetidine | 15.3 mmol, 6.7 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(N)=O | C23H27N3O2SSi
reactant | tetra-n-butylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 18.4 ml | O1CCCC1 | C4H8O
product | 1-(4-carbamoyl-1,3-thiazol-2-yl)-3-hydroxyazetidine | 2.78 g, yield 91% | C(N)(=O)C=1N=C(SC1)N1CC(C1)O | C7H9N3O2S
